US04435567
A solution of 0.65 g ethanolamine with 5 ml aceton was added dropwise to a suspension of 1.5 g phenylcarbamoyl-benzoic acid sulfimide with 10 ml aceton, under stirring. The reaction mixture was stirred for a further 30 minutes at ambient temperature, evaporated in vacuo, the residue was triturated with 20 ml water, and the obtained solid product was filtered, dried and recrystallized. There was obtained 0.25 g 1-phenyl-3-(2-hydroxyethyl)-urea, melting at 120°-122° C.

reactant | ethanolamine | 0.65 g | C(O)CN | C2H7NO
reactant | phenylcarbamoyl-benzoic acid sulfimide | 1.5 g | [SH2]=N.C1(=CC=CC=C1)NC(=O)C1=C(C(=O)O)C=CC=C1
solvent | aceton | 10 ml | CC(=O)C | C3H6O
solvent | aceton | 5 ml | CC(=O)C | C3H6O
product | 1-phenyl-3-(2-hydroxyethyl)-urea | 0.25 g | C1(=CC=CC=C1)NC(=O)NCCO | C9H12N2O2
